US04224330
To a stirred solution of 3-benzylpyrrolyl methanol (1.8 mmol), 2-(5-fluoro-2-benzothienyl)-3-methylbutanoic acid (2.0 mmol) and 4-dimethylaminopyridine (2.0 mmol) in 20 ml of methylene chloride and 2 ml of DMF is added N,N'-dicyclohexylcarbodiimide (2.0 mml). The reaction mixture is stirred, under nitrogen, for about two hours and then filtered and extracted with water. The aqueous phase is extracted with ether. The combined organic phases are washed with saturated aqueous NaHCO3, water and saturated aqueous NaCl, dried over CaSO4 and solvent evaporated to yield 3-benzylpyrrolylmethyl 2-(5-fluoro-2-benzothienyl)-3-methylbutanoate.

reactant | 3-benzylpyrrolyl methanol | 1.8 mmol | C(C1=CC=CC=C1)C1=C(NC=C1)CO | C12H13NO
reactant | 2-(5-fluoro-2-benzothienyl)-3-methylbutanoic acid | 2.0 mmol | FC=1C=CC2=C(C=C(S2)C(C(=O)O)C(C)C)C1 | C13H13FO2S
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 2.0 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-benzylpyrrolylmethyl 2-(5-fluoro-2-benzothienyl)-3-methylbutanoate | FC=1C=CC2=C(C=C(S2)C(C(=O)OCC=2NC=CC2CC2=CC=CC=C2)C(C)C)C1 | C25H24FNO2S
